US08372850B2
2-(2-Chlorophenyl)pyrimidine-4,6-diol
A solution of sodium ethoxide (19.83 g, 291 mmol) in ethanol [previously prepared by dissolving sodium (6.7 g, 291 mmol) in ethanol (200 mL)] was treated with diethyl malonate (14.73 mL, 97 mmol) with stirring at ambient temperature. A solution of 2-chlorobenzamidine (15 g, 97 mmol) in ethanol (100 mL) was then added dropwise with stirring at room temperature. On completion of addition the reaction mixture was then heated at reflux for 5 h and allowed to stand overnight. The reaction mixture was concentrated in vacuo, water added and the pH adjusted to pH 3-4 using 2N HCl. The resulting solid formed was filtered and washed with water and diethyl ether to give the title compound as a solid (17.12 g, 79%). MS (ES+) m/e=223. 1H NMR: (DMSO) 5.33 (1H, s), 7.43-7.70 (4H, m), 12.00 (2H, brs).

reactant | sodium ethoxide | 291 mmol, 19.83 g | [O-]CC.[Na+]
reactant | sodium | 291 mmol, 6.7 g | [Na] | Na
reactant | diethyl malonate | 97 mmol, 14.73 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chlorobenzamidine | 97 mmol, 15 g | ClC1=C(C(=N)N)C=CC=C1 | C7H7ClN2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(2-Chlorophenyl)pyrimidine-4,6-diol | 17.12 g, 79% | ClC1=C(C=CC=C1)C1=NC(=CC(=N1)O)O | C10H7ClN2O2
